US06180664B2
Methyl 2,2,2-tris(nitryloxymethyl)ethyl ether
0.025 mol of sodium and 0.12 mol of absolute methanol are used to prepare the methylate solution. 0.02 mol of 3-nitryloxy-2,2-bis(nitryloxymethyl)propyl bromide is added and the mixture is refluxed for 5 hours, with stirring and with the exclusion of moisture. After cooling, the reaction mixture is added to 5 times the amount of water and the ether (Me-PETriN ether) is separated off, washed again with water, dried and purified by column chromatography. Yield: 75%. Elemental analysis: (C: conforms, H: conforms, N: conforms).

reactant | sodium | 0.025 mol | [Na] | Na
reactant | methanol | 0.12 mol | CO | CH4O
reactant | 3-nitryloxy-2,2-bis(nitryloxymethyl)propyl bromide | 0.02 mol | [N+](=O)([O-])OCC(CBr)(CO[N+](=O)[O-])CO[N+](=O)[O-] | C5H8BrN3O9
solvent | water | O | H2O
product | Methyl 2,2,2-tris(nitryloxymethyl)ethyl ether | Yield: 75% | [N+](=O)([O-])OCC(COC)(CO[N+](=O)[O-])CO[N+](=O)[O-] | C6H11N3O10
